US07790884B2
2-Chloro-N-(4-chloro-2-fluorophenyl)-6,7-dimethoxyquinazoline-4-amine hydrochloride (405 mg), N,1-dimethyl-N-piperidin-4-yl-L-prolinamide dihydrochloride (447 mg) and 1,8-diazabicyclo[5.4.0]undec-7-ene (608 mg) were added to 1,4-dioxane (20 mL), followed by heating under reflux for 24 hours. After concentration of the reaction solution, ethyl acetate and water were added to the residue, the organic layer was separated, and the water layer was further extracted with ethyl acetate. The combined organic layer was washed with saturated brine, dried over magnesium sulfate and then filtered. The solvent was evaporated under a reduced pressure. By purifying the residue by silica gel flash column chromatography (chloroform-MeOH), N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N,1-dimethyl-L-prolinamide was obtained. This was dissolved in ethyl acetate (10 mL), and 4 M HCl/ethyl acetate solution (0.5 mL) was added thereto. By evaporating the solvent under a reduced pressure and recrystallizing the resulting residue from EtOH-diethyl ether, N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N,1-dimethyl-L-prolinamide dihydrochloride (155 mg) was obtained as pale yellow powder.

reactant | 2-Chloro-N-(4-chloro-2-fluorophenyl)-6,7-dimethoxyquinazoline-4-amine hydrochloride | 405 mg | Cl.ClC1=NC2=CC(=C(C=C2C(=N1)NC1=C(C=C(C=C1)Cl)F)OC)OC
reactant | N,1-dimethyl-N-piperidin-4-yl-L-prolinamide dihydrochloride | 447 mg | Cl.Cl.CN(C([C@H]1N(CCC1)C)=O)C1CCNCC1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 608 mg | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-{4-[(4-chloro-2-fluorophenyl)amino]-6,7-dimethoxyquinazolin-2-yl}piperidin-4-yl)-N,1-dimethyl-L-prolinamide | ClC1=CC(=C(C=C1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)N(C([C@H]1N(CCC1)C)=O)C)F | C28H34ClFN6O3
